US09359359B2
To a solution of 7-(4-chlorobenzyl)-8-(2-fluoro-5-(trifluoromethoxy)benzyl)-1-(4-methoxybenzyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (71 mg, 0.118 mmol) in DCM (1 mL) was added TFA (0.3 mL) and trifluoromethanesulfonic acid (0.2 mL). The reaction was stirred at room temperature for 16 h. The mixture was concentrated and the residue was partitioned between DCM and aqueous sodium bicarbonate. The organic layer was dried and concentrated to give 7-(4-chlorobenzyl)-8-(2-fluoro-5-(trifluoromethoxy)benzyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (39 mg, 68.4% yield) as a yellow syrup, which was directly without purification. LCMS retention time 1.686 min; LCMS MH+ 483.

reactant | 7-(4-chlorobenzyl)-8-(2-fluoro-5-(trifluoromethoxy)benzyl)-1-(4-methoxybenzyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.118 mmol, 71 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CC2=CC=C(C=C2)OC)=O)C)CC2=C(C=CC(=C2)OC(F)(F)F)F)C=C1 | C29H23ClF4N4O4
reactant | TFA | 0.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | trifluoromethanesulfonic acid | 0.2 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 7-(4-chlorobenzyl)-8-(2-fluoro-5-(trifluoromethoxy)benzyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 39 mg, 68.4% yield | ClC1=CC=C(CN2C(=NC=3N(C(NC(C23)=O)=O)C)CC2=C(C=CC(=C2)OC(F)(F)F)F)C=C1 | C21H15ClF4N4O3
